US09284272B2
2-(5-Methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)-2-methylpropanenitrile (5.61 g, 16.15 mmol), from Step 1, in AcOH (100 mL) was treated with zinc (10.56 g, 161 mmol). The reaction was stirred at 90° C. for 30 min, filtered, and concentrated to dryness. The dried residue was taken into 4:1 THF:DCM and washed with saturated aqueous sodium bicarbonate solution. Aqueous washings were back-extracted with THF:DCM mixture 5 times. Organic layers were combined, dried (MgSO4), filtered and concentrated. Purification by flash chromatography (silica gel, 15-25% 1N methanolic ammonia/dichloromethane) afforded 4.95 g (97%) of 5-methoxy-3,3-dimethyl-6-(3-(pyrrolidin-1-yl)propoxy)-3H-indol-2-amine 1H NMR (400 MHz, METHANOL-D4) δ 7.17 (s, 1H), 6.90 (s, 1H), 4.16 (t, J=5.5 Hz, 2H), 3.87 (s, 3H), 3.85-3.73 (m, 2H), 3.46 (t, J=7.1 Hz, 2H), 3.13 (dt, J=10.5, 7.7 Hz, 2H), 2.31-2.23 (m, 2H), 2.19 (dd, J=14.3, 7.6 Hz, 2H), 2.12-1.99 (m, 2H), 1.55 (s, 6H); MS (ESI) m/z 318 (M+H)+.

reactant | 2-(5-Methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)-2-methylpropanenitrile | 16.15 mmol, 5.61 g | COC=1C(=CC(=C(C1)C(C#N)(C)C)[N+](=O)[O-])OCCCN1CCCC1 | C18H25N3O4
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
catalyst | zinc | 161 mmol, 10.56 g | [Zn] | Zn
product | 5-methoxy-3,3-dimethyl-6-(3-(pyrrolidin-1-yl)propoxy)-3H-indol-2-amine | 4.95 g, 97% | COC=1C=C2C(C(=NC2=CC1OCCCN1CCCC1)N)(C)C | C18H27N3O2
